US04120898
3-(2-Chlorethylsulphonyl)-N-(2-vinylthioethyl)-propionamide (Intermediate 2)
A solution of 5.92 g 3-(2-chloroethylsulphonyl)-propionyl chloride in 75 ml dichloromethane was treated dropwise with a solution of 2.65 g 2-vinylthioethylamine and 2.6 g triethylamine in dichlormethane. After 2 hours, the solution was evaporated and the residue recrystallised from aqueous ethanol. Yield 6.1 g; Mp. 102° to 103° C.

reactant | 3-(2-chloroethylsulphonyl)-propionyl chloride | 5.92 g | ClCCS(=O)(=O)CCC(=O)Cl | C5H8Cl2O3S
reactant | 2-vinylthioethylamine | 2.65 g | C(=C)SCCN | C4H9NS
reactant | triethylamine | 2.6 g | C(C)N(CC)CC | C6H15N
solvent | dichloromethane | 75 ml | ClCCl | CH2Cl2
product | 3-(2-Chlorethylsulphonyl)-N-(2-vinylthioethyl)-propionamide | ClCCS(=O)(=O)CCC(=O)NCCSC=C | C9H16ClNO3S2
